US08530491B2
d) 2,4-diamino-6-ethyl-5-(3-(2-(2-carboxyethyl)phenoxy)propoxy)pyrimidine hydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(2-(2-carboxyethyl)phenoxy)propoxy)pyrimidine (0.3604 g, 1 mmol) in water (1 mL) was added one equivalent of concentrated HCl. The titled compound was obtained, after trituration of the reaction mixture with diethyl ether, as a white crystalline solid (0.3770 g, 95%). 1H NMR (400 MHz, DMSO-d6): 1.12 (3H, t, J=7.5 Hz), 2.22 (2H, t, J=5.8 Hz), 2.44-2.52 (4H, m), 2.78 (2H, t, J=7.5 Hz), 3.89 (2H, t, J=5.9 Hz), 4.14 (2H, t, J=5.5 Hz), 6.85 (1H, t, J=7.3 Hz), 6.98 (1H, d, J=8.1 Hz), 7.14-7.19 (2H, m) 7.41 (2H, s), 7.85 (1H, s), 8.31 (1H, s), 12.11 (1H, bs), 12.54 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(2-(2-carboxyethyl)phenoxy)propoxy)pyrimidine | 1 mmol, 0.3604 g | NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)CCC(=O)O)CC | C18H24N4O4
reactant | HCl | one equivalent | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 2,4-diamino-6-ethyl-5-(3-(2-(2-carboxyethyl)phenoxy)propoxy)pyrimidine hydrochloride | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)CCC(=O)O)CC | InChI=1S/C18H24N4O4.ClH/c1-2-13-16(17(19)22-18(20)21-13)26-11-5-10-25-14-7-4-3-6-12(14)8-9-15(23)24;/h3-4,6-7H,2,5,8-11H2,1H3,(H,23,24)(H4,19,20,21,22);1H
